US06509329B1
Synthesis of 2-(3,4,5-Trimethoxyphenylethynyl)pyridine-4-carboxylic Acid
Ethyl 2-(3,4,5-trimethoxyphenylethynyl)pyridine-4-carboxylate (1.40 g) was suspended in methanol (100 mL), to the suspension lithium hydroxide hydrate (189 mg) was added, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure, water was added to the residue and the resultant mixture was neutralized with 1 M hydrochloric acid. After the reaction mixture was cooled with ice, crystals precipitated were collected by filtration to obtain the title compound as colorless crystals.

reactant | Ethyl 2-(3,4,5-trimethoxyphenylethynyl)pyridine-4-carboxylate | 1.40 g | COC=1C=C(C=C(C1OC)OC)C#CC1=NC=CC(=C1)C(=O)OCC | C19H19NO5
reactant | lithium hydroxide hydrate | 189 mg | O.[OH-].[Li+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-(3,4,5-Trimethoxyphenylethynyl)pyridine-4-carboxylic Acid | COC=1C=C(C=C(C1OC)OC)C#CC1=NC=CC(=C1)C(=O)O | C17H15NO5
